US08859523B2
PEG-diacrylate (PEGDA), PEG-dimethacrylate (PEGDM), PEG-diacrylamide (PEGDAA) and PEG-dimethacrylamide (PEGDMA) were synthesized from PEG (Mw 3400 KDa, Aldrich) or PEG-diamine (Mw 3400, Shearwater Polymers) as described with minor modifications. Briefly: PEG (or PEG-diamine) molecular weight 3400 (10 g, 5.88 mmol of functional group) was azeotropically distilled with 400 ml of toluene under argon, removing ca. 100 ml of toluene. The anhydrous solution was cooled at room temperature under argon and then cooled in an ice bath. Anhydrous dichloromethane (Aldrich) (ca. 50 ml) was added until the solution become clear. Triethylamine (1.23 ml, 8.82 mmol, Aldrich) was added dropwise with stirring, followed by the dropwise addition of 0.72 ml of acryloyl chloride (8.82 nm mot, Aldrich) or 0.85 ml of methacryloyl chloride (8.82 mmol, Aldrich). The reaction was stirred in the dark, overnight under argon. The solutions were then filtered under vacuum until clears and the product was precipitated in diethyl ether collected by filtration and dried under vacuum. Next, 10 g of the product were dissolved in 10 ml of distilled water, adding 5 g of NaCl (the pH was adjusted to 6). The derivatives were then extracted 3 times with dichloromethane and precipitated in diethyl ether, and collected by filtration and dried under vacuum. PEG diacrylate: yield 75%. 1H-NMR (DCCl3): 3.6 ppm (303.5H, PEG), 4.3 ppm (t, 4H, —CH2—CH2—O—CO—CH═CH2), 5.8 ppm (dd, 2H, CH2═CH—COO), 6.1 ppm, 6.4 ppm (dd, 4H, CH2═CH—COO—). Degree of substitution 95%. PEG dimethacrylate: yield 60%. 1H-NMR (DCCl3): 2.3 ppm (s, 6H, CH2═C(CH3)—COO—), 3.6 ppm (303.5H, PEG), 4.3 ppm (t, 4H, —CH2—CH2—O—CO—C(CH3)═CH2), 5.8 ppm, 6.1 ppm (d, 4H, CH2═C(CH3)—COO—). Degree of substitution 91%. PEG diacrylamide: yield 75%. 1H-NMR (DCCl3): 3.6 ppm (304.4H, PEG), 5.6 ppm (dd, 2H, CH2═CH—CON—), 6.1 ppm and 6.3 ppm (dd, 4H, CH2═CH—COC—). Degree of substitution 100%. PEG dimethacrylamide: yield 71%. 1H-NMR (DCCl3): 2 ppm (s, 6H, CH2═C(CH3)—CON—), 3.6 ppm (304.4H, PEG), 5.3 ppm, 5.8 ppm (d, 4H, CH2—C(CH3)—CON—). Degree of substitution 100%.

reactant | Triethylamine | 8.82 mmol, 1.23 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.72 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | methacryloyl chloride | 8.82 mmol, 0.85 ml | C(C(=C)C)(=O)Cl | C4H5ClO
product | diacrylamide | yield 75% | C=CC(=O)NC(=O)C=C | C6H7NO2
